US05455351
A. 4-((Amino)thiocarbonyl)morpholine
A solution of 3.35 g (18.8 mmol) of thiocarbonyl diimidazole in 100 ml of THF was treated with 0.82 ml (9.4 mmol) of morpholine. After being stirred at ambient temperature for 3.5 h, an additional 0.82 ml portion of morpholine was added, and stirring was continued. After 6 h, the solution was treated with excess concentrated aqueous ammonia, and stirred overnight. The resulting solution was concentrated in vacuo, taken up in chloroform, separated from the aqueous phase, dried over Na2SO4, and concentrated. Purification of the residue by silica gel chromatography using ethyl acetate provided 1.85 g (76%) of the desired compound, Rf 0.17 (10% methanol in chloroform), as a white solid. 1H NMR (CDCl3)δ3.76 (m, 4H), 3.83 (m, 4H), 5.75 (br, 2H). Mass spectrum: (M+H)+ =147.

reactant | thiocarbonyl diimidazole | 18.8 mmol, 3.35 g | C(=S)(C=1NC=CN1)C=1NC=CN1 | C7H6N4S
reactant | morpholine | 9.4 mmol, 0.82 ml | N1CCOCC1 | C4H9NO
reactant | ammonia | N | H3N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-((Amino)thiocarbonyl)morpholine | 1.85 g, 76% | NC(=S)N1CCOCC1 | C5H10N2OS
